US07279495B2
4 g of 2-trifluoromethylbenzimidazole, 2.8 g of chloroacetone, 3.4 g of potassium carbonate and 0.32 g of potassium iodide are dissolved in 50 ml of acetone and boiled under reflux for 4 h. After cooling, the precipitate is filtered off, washed with acetone and dried in a vacuum. 1-(2-trifluoromethylbenzimidazol-1-yl)-propanone is thus obtained.

reactant | 2-trifluoromethylbenzimidazole | 4 g | FC(C=1NC2=C(N1)C=CC=C2)(F)F | C8H5F3N2
reactant | chloroacetone | 2.8 g | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 3.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.32 g | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-(2-trifluoromethylbenzimidazol-1-yl)-propanone | FC(C1=NC2=C(N1CC(C)=O)C=CC=C2)(F)F | C11H9F3N2O
